US07345067B2
Analogously, to example 1.4, [4-(tert-butoxycarbonyl-methyl-amino)-2-ethyl-phenoxy]-acetic acid methyl ester was deprotected with TFA to give (2-ethyl-4-methylamino-phenoxy)-acetic acid methyl ester as a light brown oil, MS: 224 (MH+).

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-ethyl-phenoxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)CC)=O | C17H25NO5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-ethyl-4-methylamino-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)NC)CC)=O | C12H17NO3
